US07456190B2
4-(3-Dimethylamino-acryloyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester
In a dry flask containing THF (15 mL) was added 4-acetyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.0 g, 9.3 mmol) then Bredereck's reagent (5 mL). The reaction was stirred at 50° C. for 20 hours. The resulting precipitate formed during the reaction was removed by filtration and washed with hexanes. The enaminone was recovered as a yellow solid (2.2 g), HPLC Rt=4.0 minutes; FIA, ES+=265.1

reactant | 4-acetyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 9.3 mmol, 2.0 g | C(C)OC(=O)C=1NC(=C(C1C)C(C)=O)C | C11H15NO3
reactant | Bredereck's reagent | 5 mL | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(3-Dimethylamino-acryloyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C(C1C)C(C=CN(C)C)=O)C | C14H20N2O3
